US07214802B2
Acetic acid 2-(4-methoxy-3,5-dinitro-phenyl)-2-methyl-propyl ester (625 mg, 2.00 mmol) was dissolved in 10 mL MeOH. Ethyl acetate (10 mL), ammonium formate (1.26 g, 20.0 mmol), and Pd/C (56 mg) were added and the mixture was heated to 40° C. overnight. The mixture was then filtered through celite and partitioned between sat'd NaHCO3 and EtOAc. The EtOAc extract was washed with brine. The washes were extracted once more with EtOAc. The extracts were combined, dried with Na2SO4, filtered, and concentrated to provide 500 mg of acetic acid 2-(3,5-diamino-4-methoxy-phenyl)-2-methyl-propyl ester.

reactant | Acetic acid 2-(4-methoxy-3,5-dinitro-phenyl)-2-methyl-propyl ester | 2.00 mmol, 625 mg | COC1=C(C=C(C=C1[N+](=O)[O-])C(COC(C)=O)(C)C)[N+](=O)[O-] | C13H16N2O7
reactant | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
reactant | ammonium formate | 20.0 mmol, 1.26 g | C(=O)[O-].[NH4+]
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 56 mg | [Pd] | Pd
product | acetic acid 2-(3,5-diamino-4-methoxy-phenyl)-2-methyl-propyl ester | 500 mg | NC=1C=C(C=C(C1OC)N)C(COC(C)=O)(C)C | C13H20N2O3
